US07144913B2
Step 1: 2-bromo-4-(methylthio)benzaldehyde
To 2-bromo-4-fluorobenzaldehyde (150 mg, 0.74 mmol) in methanol (2 mL) was added sodium thiomethoxide (80 mg, 1.1 mmol). The reaction mixture was heated to 50° C. for 1 hour. After cooling, the mixture was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were dried over Na2SO4, concentrated, and used as such.

reactant | 2-bromo-4-fluorobenzaldehyde | 0.74 mmol, 150 mg | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | sodium thiomethoxide | 1.1 mmol, 80 mg | C[S-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 2-bromo-4-(methylthio)benzaldehyde | BrC1=C(C=O)C=CC(=C1)SC | C8H7BrOS
